** sch_path: /home/instaneous/diff_pair_loadanalysis1.sch
**.subckt diff_pair_loadanalysis1
V1 net1 0 1.8
V2 net2 0 0.8
V3 net3 0 dc 0.9 ac 0.5 180
V4 net4 0 0.8
V5 net5 0 dc 0.9 ac 0.5 0
x1 net1 net2 VOUT1 VOUT2 net3 net5 VT net4 diff_pair_load1
**** begin user architecture code


.lib /home/instaneous/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130B/libs.tech/combined/sky130.lib.spice tt
.control
  run
dc V5 0.6 1.2 0.01
.endc


**** end user architecture code
**.ends

* expanding   symbol:  diff_pair_load1.sym # of pins=8
** sym_path: /home/instaneous/diff_pair_load1.sym
** sch_path: /home/instaneous/diff_pair_load1.sch
.subckt diff_pair_load1 VDD VB1 VOUT1 VOUT2 VIN2 VIN1 VT VB2
*.iopin VOUT1
*.iopin VOUT2
*.ipin VIN1
*.ipin VIN2
*.ipin VB2
*.ipin VDD
*.ipin VB1
*.iopin VT
XM1 VOUT1 VIN1 VT GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net1 VIN2 VT GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 VT VB2 0 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 VOUT1 VB1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 VOUT2 VB1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.end
